US08309580B2
(4) methyl 2-hydroxy-3-(methylamino)propanoate hydrochloride
A mixture of methyl 3-[(tert-butoxycarbonyl)(methyl)amino]-2-hydroxypropanoate (0.2 g) and 4N hydrochloric acid-ethyl acetate (5 mL) was stirred at room temperature for 1 hr. The solvent was evaporated under reduced pressure, to give the title compound (0.1 g, 100%) as a yellow crystal.

reactant | methyl 3-[(tert-butoxycarbonyl)(methyl)amino]-2-hydroxypropanoate | 0.2 g | C(C)(C)(C)OC(=O)N(CC(C(=O)OC)O)C | C10H19NO5
reactant | hydrochloric acid ethyl acetate | 4N, 5 mL | Cl.C(C)(=O)OCC
product | methyl 2-hydroxy-3-(methylamino)propanoate hydrochloride | 0.1 g, 100% | Cl.OC(C(=O)OC)CNC | InChI=1S/C5H11NO3.ClH/c1-6-3-4(7)5(8)9-2;/h4,6-7H,3H2,1-2H3;1H
